US07741364B2
4-(2-methyl-5-m-tolyl-pyrrol-1-yl)-benzenesulfonamide
Meta-methylbenzaldehyde and but-3-en-2-one were treated according to the procedure outlined in General Procedure C followed by subjecting the resulting product to conditions outlined in General Procedure D along with p-aminosulfonyl phenylamine to obtain the titled compound. 1H NMR (CDCl3) δ ppm 2.15 (3H), 2.05 (3H), 4.90 (2H), 6.10 (1H), 6.30 (1H), 6.89-7.90 (8H); MS (ESI) m/z 327 (M+H).

reactant | Meta-methylbenzaldehyde | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | but-3-en-2-one | CC(C=C)=O | C4H6O
reactant | p-aminosulfonyl phenylamine | NS(=O)(=O)C1=CC=C(C=C1)N | C6H8N2O2S
product | 4-(2-methyl-5-m-tolyl-pyrrol-1-yl)-benzenesulfonamide | CC=1N(C(=CC1)C=1C=C(C=CC1)C)C1=CC=C(C=C1)S(=O)(=O)N | C18H18N2O2S
